US04572913
Preparation of 3-(2-pyridylmethyleneamino)-1-(3-trifluoromethylphenyl)-2-pyrazoline
3-Amino-1-(3-trifluoromethylphenyl)-2-pyrazoline in methanol (23 ml) was stirred together with 2-pyridylaldehyde at room temperature for 2 hours and then under reflux for a further 2 hours. Thin layer chromatography (SiO2, ethyl acetate) indicated that the reaction was substantially complete. After standing overnight, additional 2-pyridylaldehyde (0.5 g) was added and heating was continued for 2 hours. TLC again indicated that no further reaction had occurred. The reaction mixture was evaporated in vacuo to yield an orange-coloured solid which was stirred for 45 minutes in aqueous ethanol (3:1) and 3-(2-pyridylmethyleneamino)-1-(3-trifluoromethylphenyl)-2-pyrazoline was collected, m.p. 155.6°.

reactant | 3-Amino-1-(3-trifluoromethylphenyl)-2-pyrazoline | NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C10H10F3N3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 23 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-pyridylmethyleneamino)-1-(3-trifluoromethylphenyl)-2-pyrazoline | N1=C(C=CC=C1)C=NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C16H13F3N4
